US04515799
5-{[4-(2,3-Dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxymethyl}tetrazole
A solution of [4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxyacetonitrile (3.52 g) and tri-n-butyltin azide (3.00 g) in dioxane (100 ml) was heated under reflux for 21.5 hours and then evaporated. The residual oil was taken up in diethyl ether (200 ml) and dry hydrogen chloride was bubbled through the stirred solution in a slow stream for 50 minutes. The resulting precipitate was collected, washed with diethyl ether and dried to give the title compound (3.14 g), m.p. 112°-114° C.

reactant | [4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxyacetonitrile | 3.52 g | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCC#N)C(=O)OCC | C20H20Cl2N2O5
reactant | tri-n-butyltin azide | 3.00 g | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 5-{[4-(2,3-Dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxymethyl}tetrazole | 3.14 g | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCC1=NN=NN1)C(=O)OCC | C20H21Cl2N5O5
